US07632829B2
1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-[1,4]diazepan-5-one
A solution of 9.77 g (43.65 mmol) of (E)-3,4-dichlorocinnamic acid in 250 ml of CH2Cl2 was treated at RT with 3 drops of DMF. 4.15 ml (48.02 mmol, 1.1 eq) of oxalyl chloride in 30 ml CH2Cl2 were added dropwise and stirring was continued for 3 h. The solution was evaporated, redissolved in 170 ml of CH2Cl2, cooled (0° C.) and treated with a solution of 4.48 g (39.29 mmol, 0.9 eq) of 2,3,6,7-tetrahydro-(1H)-1,4-diazepin-5(4H)-one and 12.17 ml (87.30 mmol, 2 eq) of triethylamine in 80 ml of CH2Cl2. The reaction was warmed up over night to RT, then partitioned between CH2Cl2/MeOH 9:1 (×3)/ aqueous 10% KHSO4, the organic phases were washed with aqueous saturated NaHCO3 and aqueous 10% NaCl, dried over Na2SO4 and evaporated. The residue was dissolved and evaporated with toluene and crystallized with CH2Cl2/Et2O to give 7.99 g (58%) of the title compound as white solid. MS: 312.8 (MH+, 2Cl).

reactant | (E)-3,4-dichlorocinnamic acid | 43.65 mmol, 9.77 g | ClC=1C=C(/C=C/C(=O)O)C=CC1Cl | C9H6Cl2O2
reactant | oxalyl chloride | 48.02 mmol, 4.15 ml, 1.1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2,3,6,7-tetrahydro-(1H)-1,4-diazepin-5(4H)-one | 39.29 mmol, 4.48 g, 0.9 eq | N1CCNC(CC1)=O | C5H10N2O
reactant | triethylamine | 87.30 mmol, 12.17 ml, 2 eq | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 250 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
product | 1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-[1,4]diazepan-5-one | 7.99 g, 58% | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCNC(CC1)=O | C14H14Cl2N2O2
